US06310056B1
Pivaloyloxymethyl (1S,5R,6S)-2-(7-formylaminomethyl imidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a solution of 33 mg of sodium (1S,5R,6S)-2-(7-formylaminomethyl imidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 0.8 ml of DMF was added 29 mg of pivaloyloxymethyl iodide at −30° C., and the mixture was stirred for 1 hour during which the temperature was raised up to room temperature. The reaction mixture was diluted with 30 ml of dichloromethane, washed with semi-saturated aqueous saline, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue thus obtained was purified by column chromatography on silica gel (ethyl acetate:methanol=4:1) to give the title compound in a yield of 29 mg.

reactant | sodium (1S,5R,6S)-2-(7-formylaminomethyl imidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 33 mg | C(=O)NCC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+]
reactant | pivaloyloxymethyl iodide | 29 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Pivaloyloxymethyl (1S,5R,6S)-2-(7-formylaminomethyl imidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | C(=O)NCC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCOC(C(C)(C)C)=O)C([C@@H]1[C@@H](C)O)=O)C | C23H28N4O7S
